US08357717B2
Hydrochloric acid (30.6 ml; 2 equiv.) was added at 0° C. to a solution of 1,2,3,4,-tetrahydroisoquinoline-7-amine (15.3 g; 1 equiv.) in 40 ml of water, and the reaction mixture was stirred for 10 minutes at −5° C. Sodium nitrate solution (7.13 g of sodium nitrate in 35 ml of water) was added dropwise at 0° C. in the course of 30 minutes, and the resulting reaction mixture was stirred for 30 minutes at 0° C. Finally, urea (1.86 g; 0.3 equiv.) was added. A mixture of sodium hydroxide solution (10.3 g of NaOH in 70 ml of H2O), potassium cyanide solution (33.5 g (5 equiv.) of KCN in 50 ml of H2O) and 76.5 ml of benzene was cooled to 0° C.; a nickel sulfate solution (32.6 g (1.2 equiv.) of NiSO4*6H2O in 50 ml of H2O) was added slowly, and stirring was carried out for 30 min. at 0° C. The diazonium solution was slowly added dropwise at 0° C., and the resulting reaction mixture was stirred first for 2 h at room temperature and then for 1 h at 50° C. When the conversion was complete, the mixture was cooled to 0° C., adjusted to a pH value of 8-9 with sodium hydroxide solution and filtered over Celite, and the filter cake was then washed with dichloromethane. The aqueous solution was extracted 3 times with dichloromethane. The combined organic phases were dried over sodium sulfate and concentrated under reduced pressure. The crude product was purified by column chromatography (silica gel, 10% methanol/chloroform). 1,2,3,4-Tetrahydroisoquinoline-7-carbonitrile (4 g; 24.5%) was obtained in the form of a solid.

reactant | Hydrochloric acid | 30.6 ml, 2 equiv. | Cl | ClH
reactant | 1,2,3,4,-tetrahydroisoquinoline-7-amine | 15.3 g, 1 equiv. | C1NCCC2=CC=C(C=C12)N | C9H12N2
reactant | Sodium nitrate | 35 ml, 7.13 g | [N+](=O)([O-])[O-].[Na+]
reactant | urea | 1.86 g, 0.3 equiv. | NC(=O)N | CH4N2O
reactant | sodium hydroxide | 70 ml, 10.3 g | [OH-].[Na+]
reactant | potassium cyanide | 50 ml, 33.5 g, 5 equiv. | [C-]#N.[K+]
reactant | KCN | 5 equiv. | [C-]#N.[K+]
solvent | water | 40 ml | O | H2O
catalyst | nickel sulfate | 50 ml, 32.6 g, 1.2 equiv. | S(=O)(=O)([O-])[O-].[Ni+2]
solvent | benzene | 76.5 ml | C1=CC=CC=C1 | C6H6
product | 1,2,3,4-Tetrahydroisoquinoline-7-carbonitrile | 4 g, 24.5% | C1NCCC2=CC=C(C=C12)C#N | C10H10N2
